US08080567B2
(a) 3-(4-Fluoro-3-nitro-phenyl)-acrylic acid methyl ester (42)
Trimethyl phosphonoacetate (182 mg, 1.00 mmol) in THF (1.70 mL) was added dropwise (caution—vigorous reaction!) to sodium hydride (60% in oil) (60 mg, 1.50 mmol) in THF (1.70 mL) under an atmosphere of nitrogen at 0° C. The reaction mixture was stirred for 15 minutes at 0° C. and then 4-fluoro-3-nitrobenzaldehyde (169 mg, 1.00 mmol) in THF (0.50 mL) was added. After 1 hour, EtOAc/water was added and the organic layer washed with more water, dried (Na2SO4), and the solvent concentrated in vacuo. The crude product was purified by column chromatography eluting with 33% EtOAc in heptane to give the title compound. Yield: 160 mg, 71%; LC-MS 41.31 min; HPLC Purity: >75%; MS (ES+) m/z not detectable (M+H)

reactant | Trimethyl phosphonoacetate | 1.00 mmol, 182 mg | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | sodium hydride | 1.50 mmol, 60 mg | [H-].[Na+]
reactant | 4-fluoro-3-nitrobenzaldehyde | 1.00 mmol, 169 mg | FC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | EtOAc water | CCOC(=O)C.O
solvent | THF | 1.70 mL | C1CCOC1 | C4H8O
solvent | THF | 1.70 mL | C1CCOC1 | C4H8O
solvent | THF | 0.50 mL | C1CCOC1 | C4H8O
product | 3-(4-Fluoro-3-nitro-phenyl)-acrylic acid methyl ester | COC(C=CC1=CC(=C(C=C1)F)[N+](=O)[O-])=O | C10H8FNO4
